US04704459
In 2 ml of methylene chloride was dissolved 130 mg of anhydrous piperazine, and 200 mg of ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-(2,4,6-trimethylbenzenesulfonyloxy)nicotinyl]acetate was added thereto with ice-cooling, after which the resulting mixture was subjected to reaction at the same temperature for 40 minutes. Subsequently, the reaction mixture was added to a mixture of 10 ml of ethyl acetate and 10 ml of water, and the organic layer was separated, washed successively with 2 ml of saturated aqueous sodium hydrogencarbonate solution and 2 ml of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and to the crystalline material thus obtained was added 1 ml of n-hexane, after which crystals were collected by filtration to obtain 110 mg (yield 69.9%) of ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-(1-piperazinyl)nicotinyl]acetate. The physical properties of this compound were identical with those of the compound obtained in Example 30.

reactant | piperazine | 130 mg | N1CCNCC1 | C4H10N2
reactant | ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-(2,4,6-trimethylbenzenesulfonyloxy)nicotinyl]acetate | 200 mg | FC1=C(C=CC(=C1)F)NC1=C(CCC(=O)OCC)C=C(C(=N1)OS(=O)(=O)C1=C(C=C(C=C1C)C)C)F | C25H25F3N2O5S
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 10 ml | O | H2O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | n-hexane | 1 ml | CCCCCC | C6H14
product | ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-(1-piperazinyl)nicotinyl]acetate | 110 mg, yield 69.9% | FC1=C(C=CC(=C1)F)NC1=C(CCC(=O)OCC)C=C(C(=N1)N1CCNCC1)F | C20H23F3N4O2
